US07138425B2
c) 2-[4-Isopropoxy-3-(5-phenylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 1b), from 2-(5-amino-2-isopropylphenyl)-5-phenylbenzoxazole (188 mg, 0.55 mmol) and 1,2,4-benzenetricarboxylic anhydride (106 mg, 0.55 mmol) the title compound was obtained (102 mg, 36%). 1H NMR (DMSO) δ 8.42(dd, 1H), 8.32(s, 1H), 8.18(d, 1H), 8.09(m, 2H), 7.85(d, 1H), 7.71(m, 3H), 7.50(m, 3H), 7.39(t, 1H), 4.87(m, 1H), 1.41(d, 6H). MS 519 m/z (M+H)+.

reactant | 2-(5-amino-2-isopropylphenyl)-5-phenylbenzoxazole | 0.55 mmol, 188 mg | NC=1C=CC(=C(C1)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2)C(C)C | C22H20N2O
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.55 mmol, 106 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[4-Isopropoxy-3-(5-phenylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | C(C)(C)OC1=C(C=C(C=C1)N1C(C2=CC=C(C=C2C1=O)C(=O)O)=O)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C31H22N2O6
